US07829665B2
Step 6: Synthesis of (2R,6S,13aS,14aR,16aS,Z)-6-(tert-butoxycarbonylamino)-2-(4-fluoroisoindoline-2-carbonyloxy)-5,16-dioxo-2,3,5,6,7,8,10,11,13a,14,14a,15,16,16a-tetradecahydro-1H-cyclopropa(j)pyrrolo[1,2-f][1,6,9]oxadiazacyclopentadecine-14a-carboxylic acid (10f)
(2R,6S,13aS,14aR,16aS,Z)-ethyl 6-(tert-butoxycarbonylamino)-2-(4-fluoroisoindoline-2-carbonyloxy)-5,16-dioxo-2,3,5,6,7,8,10,11,13a,14,14a,15,16,16a-tetradecahydro-1H-cyclopropa(j)pyrrolo[1,2-f][1,6,9]oxadiazacyclopentadecine-14a-carboxylate (0.093 g, 0.14 mmol) in THF (2 mL) was added 0.1 N NaOH solution (3.53 ml, 0.35 mmol) in H2O. The reaction was stirred at rt for 3 days. Water (5 mL) and ether (15 mL) was added. The aqueous layer was separated and acidified by saturated potassium hydrogen sulfate solution to pH=2˜3. The aqueous layer was extracted with EA (2×15 mL), washed with brine and dried over sodium sulfate. After removal of solvent, it (2R,6S,13aS,14aR,16aS,Z)-6-(tert-butoxycarbonylamino)-2-(4-fluoroisoindoline-2-carbonyloxy)-5,16-dioxo-2,3,5,6,7,8,10,11,13a,14,14a,15,16,16a-tetradecahydro-1H-cyclopropa(j)pyrrolo[1,2-f][1,6,9]oxadiazacyclopentadecine-14a-carboxylic acid as white solid (0.074 g, 83%). MS: Calcd.: 630; Found: [M+H]+ 631. 1H NMR (400 MHz, d6-DMSO) δ12.25 (s, 1H), 8.77 (s, 1H), 7.37 (m, 1H), 7.07-7.21 (m, 3H), 5.34-5.44 (m, 2H), 5.29 (s, 1H), 4.67 (s, 4H), 4.44 (m, 1H), 4.20 (m, 1H), 3.95 (m, 1H), 3.68 (m, 1H), 3.50 (m, 1H), 3.43 (m, 2H), 3.32 (m, 1H), 2.39 (m, 1H), 2.33 (m, 2H), 2.16 (m, 2H), 1.85 (m, 1H), 1.74 (m, 1H), 1.53 (m, 1H), 1.50 (m, 1H), 1.23 & 0.96 (s, 9H).

reactant | (2R,6S,13aS,14aR,16aS,Z)-ethyl 6-(tert-butoxycarbonylamino)-2-(4-fluoroisoindoline-2-carbonyloxy)-5,16-dioxo-2,3,5,6,7,8,10,11,13a,14,14a,15,16,16a-tetradecahydro-1H-cyclopropa(j)pyrrolo[1,2-f][1,6,9]oxadiazacyclopentadecine-14a-carboxylate | 0.14 mmol, 0.093 g | C(C)(C)(C)OC(=O)N[C@H]1CCOCC\C=C/[C@H]2[C@](NC([C@H]3N(C1=O)C[C@@H](C3)OC(=O)N3CC1=CC=CC(=C1C3)F)=O)(C2)C(=O)OCC | C33H43FN4O9
reactant | NaOH | 0.35 mmol, 0.1 N, 3.53 ml | [OH-].[Na+]
reactant | ether | 15 mL | CCOCC | C4H10O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
solvent | Water | 5 mL | O | H2O
product | (2R,6S,13aS,14aR,16aS,Z)-6-(tert-butoxycarbonylamino)-2-(4-fluoroisoindoline-2-carbonyloxy)-5,16-dioxo-2,3,5,6,7,8,10,11,13a,14,14a,15,16,16a-tetradecahydro-1H-cyclopropa(j)pyrrolo[1,2-f][1,6,9]oxadiazacyclopentadecine-14a-carboxylic acid | C(C)(C)(C)OC(=O)N[C@H]1CCOCC\C=C/[C@H]2[C@](NC([C@H]3N(C1=O)C[C@@H](C3)OC(=O)N3CC1=CC=CC(=C1C3)F)=O)(C2)C(=O)O | C31H39FN4O9
